US05064833
4-Chloro-2-(2-methylphenylamino)quinazoline (1.5 g, 0.0048 mol) was dissolved in aniline (1.5 ml, 0.016 mol) and heated at 170° for 1 hour. After cooling and evaporation of excess solvent the residue was crystallised from ethanolic hydrogen chloride to give 2-(2-methylphenylamino)-4-phenylaminoquinazoline hydrochloride (0.30 g, 17%) m.p. 239°-240°.

reactant | 4-Chloro-2-(2-methylphenylamino)quinazoline | 0.0048 mol, 1.5 g | ClC1=NC(=NC2=CC=CC=C12)NC1=C(C=CC=C1)C | C15H12ClN3
reactant | aniline | 0.016 mol, 1.5 ml | NC1=CC=CC=C1 | C6H7N
product | 2-(2-methylphenylamino)-4-phenylaminoquinazoline hydrochloride | 0.30 g, 17% | Cl.CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(=N1)NC1=CC=CC=C1 | InChI=1S/C21H18N4.ClH/c1-15-9-5-7-13-18(15)23-21-24-19-14-8-6-12-17(19)20(25-21)22-16-10-3-2-4-11-16;/h2-14H,1H3,(H2,22,23,24,25);1H
